US07569579B2
Preparation 11A: 1,1-dimethylethyl [((1S,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]carbamate
To a solution of [((1S,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]amine (28.53 g, 107 mmol, 1 eq), accessed via the method of preparation 4A, and triethylamine (11.9 g, 117 mmol, 1.1 eq) in 380 mL DCM cooled to 0° C. was added di(tert-butyl) dicarbonate (24.45 g, 112 mmol, 1.05 eq). The resultant mixture was stirred 2 h at 0° C. followed by 16 h at ambient temperature. The reaction mixture was diluted with DCM, washed successively with saturated NaHCO3 and brine, dried over MgSO4, filtered and concentrated to give the title compound (39.3 g, 107 mmol, 100%) as an amber oil. 1H NMR (300 MHz, CDCl3) δ 7.43-7.17(m, 10H), 5.35 (d, J=7.8 Hz, 1H), 4.60 (m, 2H), 3.95 (m, 2H), 3.35 (t, J=10.3 Hz, 1H), 2.97 (dd, J=13.9, 2.1 Hz, 1H), 1.62 (m, 1H), 1.35 (s, 9H), 1.08 (m, 1H), 0.77 (t, J=5.4 Hz, 1H). ES-LCMS m/z 390.30 (M+Na).

reactant | [((1S,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]amine | 107 mmol, 28.53 g, 1 eq | C1(=CC=CC=C1)[C@]1([C@@H](C1)COCC1=CC=CC=C1)CN | C18H21NO
reactant | triethylamine | 117 mmol, 11.9 g, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | di(tert-butyl) dicarbonate | 112 mmol, 24.45 g, 1.05 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 380 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl [((1S,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]carbamate | 107 mmol, 39.3 g, 100% | C1(=CC=CC=C1)[C@]1([C@@H](C1)COCC1=CC=CC=C1)CNC(OC(C)(C)C)=O | C23H29NO3
